US07375126B2
4-Piperidin-1-yl-indan-1-ylamine
4-Piperidin-1-ylindan-1-one O-methyloxime (4.33 g, 17.7 mmol) was added to a mixture of 20% ammonia in methanol (200 mL) and Raney 2800 nickel (43 g) in a stainless steel autoclave. The reactor was sealed and flushed with nitrogen, and then it was pressurized with hydrogen (60 psi). The mixture was stirred at ambient temperature for 90 minutes. The Raney nickel was filtered off, washed with methanol and the filtrate was concentrated. Obtained 4-piperidin-1-ylindan-1-yl-amine (3.81 g, 99%) as a yellow oil. MS (DCI/NH3) m/z: 217.13 [M+H]+. 1H NMR (DMSO-d6) δ: 1.51 (m, 3H), 1.62 (m, 4H), 1.77 (s, 2H), 2.28 (m, 1H), 2.62 (m, 1H), 2.80 (m, 3H), 2.94 (m, 2H), 4.14 (t, 1H), 6.71 (d, 1H), 6.95 (d, 1H), 7.09 (t, 1H).

reactant | 4-Piperidin-1-ylindan-1-one O-methyloxime | 17.7 mmol, 4.33 g | CON=C1CCC2=C(C=CC=C12)N1CCCCC1 | C15H20N2O
reactant | ammonia | N | H3N
solvent | methanol | 200 mL | CO | CH4O
catalyst | nickel | 43 g | [Ni] | Ni
product | 4-Piperidin-1-yl-indan-1-ylamine | N1(CCCCC1)C1=C2CCC(C2=CC=C1)N | C14H20N2
